US06630509B2
(c) Methyl 2-(4-{2-[4-(methoxymethyl)phenyl]ethoxy}benzyl)butanoate
ADDP (1,23 g, 4,89 mmole) and triphenylphosphine (1,03 g, 3,92 mmole) were added to a solution of 2-[4-(methoxymethyl)phenyl]ethanol (0,54 g, 3,26 mmole) and methyl 2-(4-hydroxybenzyl)butanoate (0,68 g, 3,26 mmole) in dry dichloromethane (10 ml) under argon. After 5 minutes, more dichloromethane (10 ml) was added. The reaction mixture was stirred at room temperature for 5.5 hours and then filtered. Purification by chromatography on silica gel using heptan:ethyl acetate (1:1) as eluent gave a mixture of product and starting material wich was dissolved in ethyl acetate and washed 3 times with 1 N sodium hydroxide. The organic phase was washed with brine, dried (sodium sulphate), filtered and solvent was evaporated to give 0,27 g (yield 60%) of the desired product.

reactant | ADDP | 4,89 mmole, 1,23 g | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | triphenylphosphine | 3,92 mmole, 1,03 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-[4-(methoxymethyl)phenyl]ethanol | 3,26 mmole, 0,54 g | COCC1=CC=C(C=C1)CCO | C10H14O2
reactant | methyl 2-(4-hydroxybenzyl)butanoate | 3,26 mmole, 0,68 g | OC1=CC=C(CC(C(=O)OC)CC)C=C1 | C12H16O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 2-(4-{2-[4-(methoxymethyl)phenyl]ethoxy}benzyl)butanoate | 0,27 g, yield 60% | COCC1=CC=C(C=C1)CCOC1=CC=C(CC(C(=O)OC)CC)C=C1 | C22H28O4
